### PR TITLE
feat: add List.scanlM/scanrM

### PR DESCRIPTION
**Pull request by cmlsharp**
Per [this](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/scan.20combinator.20for.20iterators/near/564913979) Zulip thread. There is interest in improving the state of the `scan{l,m}` combinator and making it consistent across the various collections (iterator, list, array, vector). This PR is the first of several (and was originally a component of #1581).

It adds `List.scanrM` and `List.scanrM` which are the monadic equivalents of `List.scanl` and `List.scanr`. (analogous to `List.foldlM`/`List.foldrM`). A collection of theorems are also proved about these.

Like `List.mapM` the "nice" version of `List.scanlM` cannot be proven equivalent to its tail-recursive version without a `LawfulMonad` instance. This PR handles this the same way as in the standard library, where we define the tail recursive `List.scanlM` and the "nicely structured" non-tail-recursive `List.scanlM'` and prove they are equivalent given a LawfulMonad instance.

### CODE REVIEW

File: Batteries/Data/List/Basic.lean [hunk 1]
```diff
@@ -183,39 +183,62 @@ theorem takeDTR_go_eq : ∀ n l, takeDTR.go dflt n l acc = acc.toList ++ takeD n
...
   funext α f n l; simp [takeDTR, takeDTR_go_eq]
 
+
+/--
+Folds a monadic function over a list from the left, accumulating partial results starting with
+`init`. The accumulated values are combined with the each element of the list in order, using `f`.
+
+This is a tail-recursive implementation. For an easier-to-reason-about version please see the
+non-tail-recursive `List.scanlM'. These cannot be shown to be equivalent to one another without
+a `LawfulMonad` constraint on `m`
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]: Outdated?

File: Batteries/Data/List/Basic.lean [hunk 2]
```diff
@@ -183,39 +183,56 @@ theorem takeDTR_go_eq : ∀ n l, takeDTR.go dflt n l acc = acc.toList ++ takeD n
...
-  | [], a, acc => acc.toListAppend [a]
-  | b :: l, a, acc => go l (f a b) (acc.push a)
-
-theorem scanlTR_go_eq : ∀ l, scanlTR.go f l a acc = acc.toList ++ scanl f a l
-  | [] => by simp [scanlTR.go, scanl]
-  | a :: l => by simp [scanlTR.go, scanl, scanlTR_go_eq l]
-
-@[csimp] theorem scanl_eq_scanlTR : @scanl = @scanlTR := by
-  funext α f n l; simp (config := { unfoldPartialApp := true }) [scanlTR, scanlTR_go_eq]
+-- This could be defined in terms of scanlM' but this has a very easy to reason about structure...
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]:
```suggestion
```

**Comment by cmlsharp** [comment]
Is the meaning of `scanlM` for unlawful monads any less clear than the meaning of `mapM`?  These two things seem pretty analogous to me (and scanlM is only a bit more complicated than mapM imo). It seems useful to me to allow one to use scanlM without yet having proven that a monad is lawful, but I'll defer to you.

Just to make sure I understand is the primary goal here to prevent requiring a mathlib PR to fix List.Vector.scanl lemmas?

**Comment by cmlsharp** [comment]
> Is the meaning of scanlM for unlawful monads any less clear than the meaning of mapM?

I understand that there are multiple distinct-but-sensible definitions of `scanlM` when `m` is non-lawful. By "less clear than the meaning of mapM", I was alluding to the fact that there are also multiple sensible definitions of `mapM` when `m` is non-lawful, and the standard library elects to have an analogous (tail-recursive) [mapM](https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Control.html#List.mapM) and (non-tail-recursive)  [mapM'](https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Monadic.html#List.mapM') definition with a [theorem](https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Monadic.html#List.mapM'_eq_mapM) that bridges them given a lawful instance.

If the concern is having multiple definitions of `scanlM`, one could sensibly make `scanlM'` private. It is really just an implementation detail for proving `scanlM_cons`. Given `scanlM_nil` and `scanlM_cons` there's really no need for a "combined" definition in the form of `scanlM'`

**Comment by fgdorais** [comment]
Let's get rid of `scanlM'`. Here is an approach that is ever-so-slightly better optimized:
```lean
@[inline]
def scanAuxM [Monad m] (f : α → β → m α) (init : α) (l : List β) : m (List α) :=
  go l init []
where
  /-- auxiliary helper function for tail-recursive scanlM implementation -/
  @[specialize, local simp] go : List β → α → List α → m (List α)
    | [], last, acc => return last :: acc
    | x :: xs, last, acc => do go xs (← f last x) (last :: acc)

@[inline]
def scanlM [Monad m] (f : α → β → m α) (init : α) (xs : List β) : m (List α) :=
  reverse <$> scanAuxM f init xs

@[inline]
def scanrM [Monad m] (f : α → β → m β) (init : β) (xs : List α) : m (List β) :=
  scanAuxM (flip f) init xs.reverse

@[local simp] theorem scanAuxM.go_eq_append_map [Monad m] [LawfulMonad m] {f : α → β → m α} :
  go f xs last acc = (· ++ acc) <$> scanAuxM f last xs := by
  unfold scanAuxM
  induction xs generalizing last acc with
  | nil => simp
  | cons _ _ ih => simp [ih (acc := last :: acc), ih (acc := [last])]

@[simp] theorem scanAuxM_nil [Monad m] {f : α → β → m α} :
    scanAuxM f init [] = return [init] := rfl

@[simp] theorem scanAuxM_cons [Monad m] [LawfulMonad m] {f : α → β → m α} :
    scanAuxM f init (x :: xs) = return (← scanAuxM f (← f init x) xs) ++ [init] := by
  conv => lhs; simp only [scanAuxM, scanAuxM.go]
  simp

@[simp] theorem scanlM_nil [Monad m] [LawfulMonad m] {f : α → β → m α} :
    scanlM f init [] = return [init] := by
  simp [scanlM]

@[simp] theorem scanlM_cons [Monad m] [LawfulMonad m] {f : α → β → m α} :
    scanlM f init (x :: xs) = return init :: (← scanlM f (← f init x) xs) := by
  simp [scanlM]

@[simp] theorem scanrM_nil [Monad m] {f : α → β → m β} :
    scanrM f init [] = return [init] := rfl

@[simp] theorem scanrM_concat [Monad m] [LawfulMonad m] {f : α → β → m β} :
    scanrM f init (concat xs x) = return concat (← scanrM f (← f x init) xs) init := by
  simp [scanrM, flip]
```
I didn't get around to add grind annotations.

File: Batteries/Data/List/Scan.lean [hunk 3]
```diff
@@ -10,30 +10,131 @@ public import Batteries.Data.List.Lemmas
...
+    scanlM f init (x :: xs) = return init :: (← scanlM f (← f init x) xs) := by
+  simp [scanlM, scanAuxM_cons]
 
-@[simp]
-theorem length_scanl {f : β → α → β} (b : β) (l : List α) :
-    length (scanl f b l) = l.length + 1 := by
-  induction l generalizing b <;> simp_all
 
-grind_pattern length_scanl => scanl f b l
+@[simp, grind=]
```
Comment (kim-em) [inline Batteries/Data/List/Scan.lean]:
```suggestion
@[simp, grind =]
```
and elsewhere

File: Batteries/Data/List/Scan.lean [hunk 4]
```diff
@@ -10,30 +10,131 @@ public import Batteries.Data.List.Lemmas
...
+    simp only [← map_reverse, scanlM_map, scanrM_eq_scanlM_reverse]
+    rfl
+
+
+/-! ### `List.scanl` and `List.scanr` -/
+
+@[simp]
+theorem length_scanl {f : β → α → β} (init : β) (as : List α)
+  : length (scanl f init as) = as.length + 1
+  := by induction as generalizing init <;> simp_all [scanl, pure, bind, Id.run]
```
Comment (kim-em) [inline Batteries/Data/List/Scan.lean]: `:= by` goes at the end of the previous line. Similarly for the `:`.

Also below.

File: Batteries/Data/List/Basic.lean [hunk 5]
```diff
@@ -183,39 +183,58 @@ theorem takeDTR_go_eq : ∀ n l, takeDTR.go dflt n l acc = acc.toList ++ takeD n
...
+  @[specialize] go : List α → β → List β → m (List β)
+    | [], last, acc => pure <| last :: acc
+    | x :: xs, last, acc => do go xs (← f last x) (last :: acc)
+
+/--
+Folds a monadic function over a list from the left, accumulating partial results starting with
+`init`. The accumulated values are combined with the each element of the list in order, using `f`.
+
+This is a tail-recursive implementation. For an easier-to-reason-about version please see the
+non-tail-recursive `List.scanlM'. These cannot be shown to be equivalent to one another without
```
Comment (kim-em) [inline Batteries/Data/List/Basic.lean]: Does this need to be updated?

Comment (cmlsharp) [reply Batteries/Data/List/Basic.lean]: Yep, removed!

File: Batteries/Data/List/Scan.lean (hunk 4 above)
Comment (cmlsharp) [reply Batteries/Data/List/Scan.lean]: Gotcha, fixed

File: Batteries/Data/List/Basic.lean [hunk 6]
```diff
@@ -183,39 +183,54 @@ theorem takeDTR_go_eq : ∀ n l, takeDTR.go dflt n l acc = acc.toList ++ takeD n
 @[csimp] theorem takeD_eq_takeDTR : @takeD = @takeDTR := by
   funext α f n l; simp [takeDTR, takeDTR_go_eq]
 
+
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]:
```suggestion
```

File: Batteries/Data/List/Scan.lean [hunk 7]
```diff
@@ -10,30 +10,127 @@ public import Batteries.Data.List.Lemmas
...
+theorem scanlM_nil [Monad m] [LawfulMonad m] {f : α → β → m α} :
+    scanlM f init [] = return [init] := by
+  simp [scanlM, scanAuxM_nil]
+
+
+@[simp, grind =]
+theorem scanlM_cons [Monad m] [LawfulMonad m] {f : α → β → m α} :
+    scanlM f init (x :: xs) = return init :: (← scanlM f (← f init x) xs) := by
+  simp [scanlM, scanAuxM_cons]
+
```
Comment (fgdorais) [inline Batteries/Data/List/Scan.lean]:
```suggestion
```

File: Batteries/Data/List/Scan.lean [hunk 8]
```diff
@@ -10,30 +10,127 @@ public import Batteries.Data.List.Lemmas
...
+    (as.map f).scanlM g init = as.scanlM (g · <| f ·) init := by
+  induction as generalizing g init with grind
+
+@[simp, grind =]
+theorem scanrM_map [Monad m] [LawfulMonad m]
+    {f : α₁ → α₂ } {g: α₂ → β → m β} {as : List α₁} {init : β} :
+    (as.map f).scanrM g init = as.scanrM (fun a b => g (f a) b) init := by
+  simp only [← map_reverse, scanlM_map, scanrM_eq_scanlM_reverse]
+  rfl
+
```
Comment (fgdorais) [inline Batteries/Data/List/Scan.lean]:
```suggestion
```

File: Batteries/Data/List/Scan.lean [hunk 9]
```diff
@@ -10,30 +10,127 @@ public import Batteries.Data.List.Lemmas
...
+@[simp]
+theorem length_scanl {f : β → α → β} (init : β) (as : List α) :
+    length (scanl f init as) = as.length + 1 := by
+  induction as generalizing init <;> simp_all [scanl, pure, bind, Id.run]
+
+grind_pattern length_scanl => scanl f init as
+
+@[simp, grind =]
+theorem scanl_nil {f : β → α → β} (b : β) : scanl f b [] = [b] := by simp [scanl]
```
Comment (fgdorais) [inline Batteries/Data/List/Scan.lean]:
```suggestion
theorem scanl_nil {f : β → α → β} : scanl f init [] = [init] := by simp [scanl]
```

File: Batteries/Data/List/Scan.lean [hunk 10]
```diff
@@ -10,30 +10,127 @@ public import Batteries.Data.List.Lemmas
...
+
+theorem idRun_scanrM {f : α → β → Id β} {init : β} {as : List α} :
+    (as.scanrM f init).run = as.scanr (f · · |>.run) init :=
+  scanrM_pure
+
 @[simp, grind =]
-theorem scanl_cons {f : β → α → β} : scanl f b (a :: l) = b :: scanl f (f b a) l := by
-  simp only [scanl]
+theorem scanlM_map [Monad m] [LawfulMonad m]
+    {f : α₁ → α₂ } {g: β → α₂ → m β} {as : List α₁} {init : β} :
```
Comment (fgdorais) [inline Batteries/Data/List/Scan.lean]:
```suggestion
theorem scanlM_map [Monad m] [LawfulMonad m] {f : α₁ → α₂} {g: β → α₂ → m β} :
```

File: Batteries/Data/List/Scan.lean [hunk 11]
```diff
@@ -10,30 +10,127 @@ public import Batteries.Data.List.Lemmas
...
+  simp [scanrM_eq_scanlM_reverse (as := as.reverse)]
+
+
+@[simp, grind =]
+theorem scanlM_reverse [Monad m] {f : β → α → m β} {init : β} {as : List α} :
+    scanlM f init as.reverse = reverse <$> (scanrM (flip f) init as) := by
+  simp [scanlM_eq_scanrM_reverse (as := as.reverse)]
+
+
+theorem scanlM_pure [Monad m] [LawfulMonad m] {f: β → α → β} {init: β} {as : List α} :
```
Comment (fgdorais) [inline Batteries/Data/List/Scan.lean]:
```suggestion
theorem scanlM_pure [Monad m] [LawfulMonad m] {f: β → α → β} :
```

File: Batteries/Data/List/Scan.lean [hunk 12]
```diff
@@ -10,30 +10,127 @@ public import Batteries.Data.List.Lemmas
...
   rfl
 
+theorem scanrM_eq_scanlM_reverse [Monad m] [LawfulMonad m]
+    {f : α → β → m β}{init : β} {as : List α} :
+    scanrM f init as = reverse <$> (scanlM (flip f) init as.reverse) := by
+  simp only [scanlM_eq_scanrM_reverse, reverse_reverse, id_map', Functor.map_map]
+  rfl
+
+@[simp, grind =]
+theorem scanrM_reverse [Monad m] [LawfulMonad m] {f : α → β → m β} {init : β} {as : List α} :
```
Comment (fgdorais) [inline Batteries/Data/List/Scan.lean]:
```suggestion
theorem scanrM_reverse [Monad m] [LawfulMonad m] {f : α → β → m β} :
```

File: Batteries/Data/List/Scan.lean [hunk 13]
```diff
@@ -10,30 +10,127 @@ public import Batteries.Data.List.Lemmas
...
-theorem scanl_nil {f : β → α → β} (b : β) : scanl f b [] = [b] :=
+theorem scanrM_concat [Monad m] [LawfulMonad m] {f : α → β → m β} :
+    scanrM f init (xs ++ [x]) = return (← scanrM f (← f x init) xs) ++ [init] := by
+  simp [scanrM, flip, scanAuxM_cons]
+
+@[simp, grind =]
+theorem scanrM_nil [Monad m] {f : α → β → m β} :
+    scanrM f init [] = return [init] := rfl
+
+theorem scanlM_eq_scanrM_reverse [Monad m] {f : β → α → m β} {init : β} {as : List α} :
```
Comment (fgdorais) [inline Batteries/Data/List/Scan.lean]:
```suggestion
theorem scanlM_eq_scanrM_reverse [Monad m] {f : β → α → m β} :
```

**Review by fgdorais — APPROVED** [review]
